* source LAB #2
V_VS         NVIN 0  
+SIN 0.0 4 1000 0 0 0
R_R1         NVIN NVOUT  1k TC=0,0 
D_D1         NVOUT N03171 D1N4002 
V_V1         N03171 0 1.35Vdc
V_V2         0 N03175 2.4Vdc
D_D2         N03175 NVOUT D1N4002 
