* source LAB #3
M_M1         NDN NGN NSN NSN nnMOS           
M_M2         NSP NGP NDP NSP ppMOS           
R_R1         NSP NVDD  240 TC=0,0 
R_R2         0 NDP  1000 TC=0,0 
R_R3         0 NGP  39000 TC=0,0 
R_R4         NGP NVDD  62000 TC=0,0 
R_R5         NDN NVDD  1000 TC=0,0 
R_R6         NGN NVDD  30000 TC=0,0 
R_R7         0 NGN  68000 TC=0,0 
R_R8         0 NSN  240 TC=0,0 
V_VDD         NVDD 0 5Vdc
