* source LAB #4
M_M2         NSP NGP NDP NSP ppMOS           
M_M1         NDN NGN NSN NSN nnMOS           
R_R2         0 NDP  6200 TC=0,0 
R_R7         0 NGN  6200000 TC=0,0 
R_R8         0 NSN  3000 TC=0,0 
R_R1         NSP NVDD  3000 TC=0,0 
R_R5         NDN NVDD  6200 TC=0,0 
R_R3         0 NGP  7500000 TC=0,0 
V_VDD         NVDD 0 15Vdc
R_R6         NGN NVDD  9100000 TC=0,0 
R_R4         NGP NVDD  7500000 TC=0,0 
R_R9         NVIN NNVIN  55000 TC=0,0 
C_C1         NNVIN NGN  33u  TC=0,0 
V_VIN         NVIN 0  AC 1
+SIN 0 10m 5k 0 0 0
C_C3         NDN NNVOUT  33u  TC=0,0 
C_C2         0 NSN  33u  TC=0,0 
R_R10         0 NNVOUT  25000 TC=0,0 
C_C4         NPVIN NGP  33u  TC=0,0 
R_R11         NVIN NPVIN  55000 TC=0,0 
C_C5         NDP NPVOUT  33u  TC=0,0 
C_C6         NSP NVDD  33u  TC=0,0 
R_R12         0 NPVOUT  25000 TC=0,0 
