* source LAB #5
.EXTERNAL OUTPUT Y0
M_M1         NVDD NVIN Y0 NVDD ppMOS           
V_VVDD         NVDD 0 5Vdc
M_M3         Y0 NVIN 0 0 nnMOS           
V_VIN         NVIN 0 0Vdc
M_M4         0 NVIN Y0 0 nnMOS           
